US04179549
Acrylamide/DMAEMA 3/1 Molar pH 7.0
To a solution of 41.9 grams of glacial acetic acid in 350 grams of tap water is added 109.6 grams of dimethylaminoethyl methacrylate (DMAEMA), followed by 148.7 grams of acrylamide (AM). The monomer solution pH is 7.0. It is added slowly to a rapidly stirred solution of 30 grams of sorbitan monooleate (SMO) in 320 grams of Shellflex 131. The resulting emulsion is sparged with nitrogen, warmed to 50° C. and treated with a solution 0.10 grams of bis azoisobutyronitrile (DuPont VAZO) in 2 milliliters of benzene. The polymerization began after a 30 minute induction period. Samples are withdrawn every hour and the residual monomer content determined by gas-liquid chromatography. After 5 hours the DMAEMA had completely disappeared and 20% of the acrylamide was recovered by GLC. This indicates that ≈60% of the DMAEMA has been quaternized by the acrylamide. A small portion of the monomer solution was stored at 25° C. for 24 hours. The NMR spectrum showed that 50% of the DMAEMA had been quaternized.

reactant | acetic acid | 41.9 grams | C(C)(=O)O | C2H4O2
reactant | dimethylaminoethyl methacrylate | 109.6 grams | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | acrylamide | 148.7 grams | C(C=C)(=O)N | C3H5NO
reactant | sorbitan monooleate | 30 grams | CCCCCCCC/C=C\CCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C24H44O6
solvent | water | O | H2O
product | Acrylamide DMAEMA | C(C=C)(=O)N.CC(=C)C(=O)OCCN(C)C | InChI=1S/C8H15NO2.C3H5NO/c1-7(2)8(10)11-6-5-9(3)4;1-2-3(4)5/h1,5-6H2,2-4H3;2H,1H2,(H2,4,5)
